US06784192B2
Ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl]hexahydro-4-pyridinylidene]acetate
Under ice-cooling, a mixed solution of 2.2 ml of triethyl phosphonoacetate and 18 ml of tetrahydrofuran was added dropwise into a suspension of 0.40 g of 60% sodium hydride (oil suspension) and 18 ml of tetrahydrofuran. After stirring for 5 minutes, a mixed solution of 2.0 g of 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidone and 9 ml of tetrahydrofuran was added dropwise thereinto. After completing the dropwise addition, the mixture was further stirred under ice-cooling for 30 minutes. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), to give 2.6 g of the title compound as a pale yellow oil.

reactant | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-piperidone | 2.0 g | COC1=NC=CC=C1CN1CCC(CC1)=O | C12H16N2O2
reactant | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
reactant | Water | O | H2O
product | Ethyl 2-[1-[(2-methoxy-3-pyridyl)methyl]hexahydro-4-pyridinylidene]acetate | 2.6 g | COC1=NC=CC=C1CN1CCC(CC1)=CC(=O)OCC | C16H22N2O3
